US05162336
5.00 g (3R)-1,2,3,4-Tetrahydro-9H-pyrido[3,4-b]-indole-3-carboxylic acid is suspended in 50 ml water/50 ml tetrahydrofuran and 5.15 g sodium carbonate is added. The mixture is stirred for 5 minutes and 3.94 g benzyl chloroformate is added and the mixture stirred overnight. The mixture is evaporated in vacuo to remove the THF, the aqueous residue acidified with 1N hydrochloric acid and the resulting solid extracted into ethyl acetate. The organic solution is washed with 1N HCl, water, brine, and dried over sodium sulfate. The solution is filtered, evaporated and the residue crystallized from toluene to give (3R)-2-carbobenzoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid, m.p. 181°-184° C.

reactant | (3R)-1,2,3,4-Tetrahydro-9H-pyrido[3,4-b]-indole-3-carboxylic acid | 5.00 g | C1N[C@H](CC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
reactant | sodium carbonate | 5.15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloroformate | 3.94 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 50 ml | O | H2O
product | (3R)-2-carbobenzoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid | C(=O)(OCC1=CC=CC=C1)N1CC=2NC3=CC=CC=C3C2C[C@@H]1C(=O)O | C20H18N2O4
